US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(furan-2-ylmethyl)thiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and furfuryl isothiocyanate by a procedure analogous to the procedure described in example 3-a (yield of crude product: 92%).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | furfuryl isothiocyanate | C(C1=CC=CO1)N=C=S | C6H5NOS
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(furan-2-ylmethyl)thiourea | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NCC=1OC=CC1 | C10H10ClN3O3S3
